US04038391
Anhydrous piperazine (5.15 g.) is added to a suspension of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (5.2 g.) in acetonitrile (32 cc.). The reaction mixture is stirred for 1 hour at a temperature of about 20° C. and diisopropyl ether (150 cc.) is then added. The insoluble product is filtered off and washed with a mixture (20 cc.) of acetonitrile and diisopropyl ether (50--50 by volume) and then with diisopropyl ether (50 cc.). After recrystallisation of the product thus obtained from a mixture (160 cc.) of acetonitrile and methanol (90- 10 by volume), 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(piperazin-1-yl)carbonyloxy-isoindolin-1-one (2.4 g.), melting with decomposition at 245° C., is obtained.

reactant | piperazine | 5.15 g | N1CCNCC1 | C4H10N2
reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 5.2 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H14ClN3O4
reactant | diisopropyl ether | 150 cc | C(C)(C)OC(C)C | C6H14O
solvent | acetonitrile | 32 cc | C(C)#N | C2H3N
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(piperazin-1-yl)carbonyloxy-isoindolin-1-one | 2.4 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N1CCNCC1)=O | C21H18ClN5O3
